US20010029239A1
A solution of 2,2-dimethyl-5-hydroxy-4-oxo-benzo-1,3-dioxin (8.0 g) in tetrahydrofuran was added dropwise during 0.25 hour to a stirred suspension of sodium hydride (1.75 g of 60%) under nitrogen. After 0.25 hour 4,6-dimethoxy-2-methylsulphonylpyrimidine (9.68 g) was added during 5 minutes and the mixture heated at reflux overnight. The cooled mixture was diluted with water, extracted (ether), dried (magnesium sulphate), evaporated and purified by chromatography on silica gel eluting with isohexane/ethyl acetate to give 5-(4,6-dimethoxypyrimidin-2-yl)oxy-2,2-dimethyl-4-oxo-benzo-1,3-dioxin (2.64 g).

reactant | 2,2-dimethyl-5-hydroxy-4-oxo-benzo-1,3-dioxin | 8.0 g | CC1(OC2=C(C(O1)=O)C(=CC=C2)O)C | C10H10O4
reactant | sodium hydride | 1.75 g | [H-].[Na+]
reactant | 4,6-dimethoxy-2-methylsulphonylpyrimidine | 9.68 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(4,6-dimethoxypyrimidin-2-yl)oxy-2,2-dimethyl-4-oxo-benzo-1,3-dioxin | 2.64 g | COC1=NC(=NC(=C1)OC)OC1=CC=CC2=C1C(OC(O2)(C)C)=O | C16H16N2O6
